US05332840
N-Pentyl-L-Serinamide
Under an inert atmosphere, 1,8-diazabicyclo[5.4.0]undec-7-ene (5.10 g, 33.5 mmol) was added to a suspension of Part A carbobenzyloxy-L-serine (7.50 g, 31.4 mmol) in ethanol. Ethyl acetate was added and the mixture was agitated (optionally, with heating up to about 50° C.) to obtain a clear solution. Pyridine (0.25 g, 3.2 mmol) was added and the mixture was cooled to about -30° C. Trimethylacetyl chloride (4.12 g, 34.2 mmol) was added and the mixture was maintained at about -30° C. With cooling, n-amylamine (3.00 g, 34.4 mmol) was added and the mixture was stirred at about -10° C. for about 2 hours. Cooling was discontinued and aqueous phosphoric acid was added. The mixture was warmed to about 10° C. and the phases were separated. The organic solution was washed sequentially with aqueous phosphoric acid, aqueous potassium carbonate, and brine. Throughout these extractions, the aqueous phase was back extracted with ethyl acetate. The combined organic solution was distilled under vacuum at about 25° C. while ethanol was added until all of the ethyl acetate was removed. Under an inert atmosphere, 10% palladium on carbon (50% water, 0.75 g) was added. The resulting mixture was purged with nitrogen and then stirred in the presence of hydrogen at about 25° C. for about 6 hours. The catalyst was removed by filtration, and the clear filtrate was partially concentrated under vacuum at about 30° C. The concentrated filtrate was added to a solution of oxalic acid dihydrate (4.35 g, 34.5 mmol) in ethanol and water and a thick precipitate was formed. The suspension was heated to reflux to obtain a clear solution. Water was added at the reflux temperature until a slight turbidity was observed. The mixture was cooled to about 0° C. and stirred until crystallization was complete (about 1 hour). The product was collected and the cake was washed with ethanol. The product was dried under vacuum at about 25° C. to afford title compound.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 33.5 mmol, 5.10 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | carbobenzyloxy-L-serine | 31.4 mmol, 7.50 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | Pyridine | 3.2 mmol, 0.25 g | N1=CC=CC=C1 | C5H5N
reactant | Trimethylacetyl chloride | 34.2 mmol, 4.12 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | n-amylamine | 34.4 mmol, 3.00 g | CCCCCN | C5H13N
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | oxalic acid dihydrate | 34.5 mmol, 4.35 g | O.O.C(C(=O)O)(=O)O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Pentyl-L-Serinamide | C(CCCC)NC([C@@H](N)CO)=O | C8H18N2O2
